US04792628
100 Milliliters of ethanol solution containing 1.76 g of 4,6-dimethyl-7-hydroxy-1-indanone and 14.6 g of n-butylamine was refluxed by heating for 8 hours. The reaction mixture was cooled to a room temperature, then 1.0 g of sodium borohydride was added thereto. The mixture was further stirred at a room temperature for 1 hour. The reaction mixture was concentrated to dryness and the residue obtained was dissolved in 100 ml of water. Then the solution was acidified by adding a concentrated hydrochloric acid, and the pH of the solution was adjusted to about pH=9 by adding a saturated sodium acetate aqueous solution. The precipitate formed was extracted with ethyl acetate, washed with water and dried. The solvent was removed by evaporation, the residue obtained was dissolved in 100 ml of ethanol, and changed to hydrochloride by adding ethanol being saturated with hydrogen chloride gas. Recrystallized from ethanol-ether to obtain 1.89 g of 1-n-butylamino-4,6-dimethyl-7-hydroxyindane hydrochloride in the form of colorless needle-liee crystals. Melting point: 143°-144° C.

reactant | 4,6-dimethyl-7-hydroxy-1-indanone | 1.76 g | CC1=C2CCC(C2=C(C(=C1)C)O)=O | C11H12O2
reactant | n-butylamine | 14.6 g | C(CCC)N | C4H11N
reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-n-butylamino-4,6-dimethyl-7-hydroxyindane hydrochloride | 1.89 g | Cl.C(CCC)NC1CCC2=C(C=C(C(=C12)O)C)C | InChI=1S/C15H23NO.ClH/c1-4-5-8-16-13-7-6-12-10(2)9-11(3)15(17)14(12)13;/h9,13,16-17H,4-8H2,1-3H3;1H
